US09302996B2
1,4-Dioxane (20 mL) was added to methyl 1-{[(5-bromo-4-methylpyridin-2-yl)-oxy]methyl}cyclopropanecarboxylate (1.01 g), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane (1.03 g), palladium chloride (dppf) methylene chloride complex (71 mg) and potassium acetate (994 mg), and the mixture was stirred under nitrogen atmosphere at 100° C. for 3 hours. To the reaction mixture were added ethyl acetate and water to extract the objective compound. The organic layer was washed with a saturated brine, and dried over anhydrous magnesium sulfate. After concentrating the mixture under reduced pressure, the obtained residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=95:5 to 80:20) to obtain methyl 1-({[4-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl]oxy}methyl)cyclopropanecarboxylate (1.08 g).

reactant | 1,4-Dioxane | 20 mL | O1CCOCC1 | C4H8O2
reactant | methyl 1-{[(5-bromo-4-methylpyridin-2-yl)-oxy]methyl}cyclopropanecarboxylate | 1.01 g | BrC=1C(=CC(=NC1)OCC1(CC1)C(=O)OC)C | C12H14BrNO3
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane | 1.03 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 994 mg | C(C)(=O)[O-].[K+]
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 1-({[4-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl]oxy}methyl)cyclopropanecarboxylate | 1.08 g | CC1=CC(=NC=C1B1OC(C(O1)(C)C)(C)C)OCC1(CC1)C(=O)OC | C18H26BNO5
